US04299821
1.16 g (2.46 mmoles) of Z-Glp-Nle-Pro-NH2 are dissolved in 25 ml of methanol. 0.2 g of a 10% palladium-on-carbon catalyst is added to the solution, and hydrogen is bubbled through the mixture for 30 minutes. The catalyst is filtered off, the filtrate is evaporated, and the solid, amorphous residue is triturated with ether. The resulting 0.72 g of crude product is dissolved in water, the solution is decolourized, filtered, and the clear filtrate is freeze-dried. 0.66 g (79.5%) of Glp-Nle-Pro-NH2 are obtained: Rf4 =0.43, [α]D25 =-77.1° (c=1%, in acetic acid). Amino acid analysis: Glu: 0.96 (1.0), Nle: 1.00 (1.0), Pro: 1.00 (1.0).

reactant | Z-Glp-Nle-Pro-NH2 | 2.46 mmoles, 1.16 g | N1([C@@H](CCC1=O)C(=O)N[C@@H](CCCC)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OCC1=CC=CC=C1 | C24H32N4O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | Glp-Nle-Pro-NH2 | 0.66 g, 79.5% | N1[C@@H](CCC1=O)C(=O)N[C@@H](CCCC)C(=O)N1[C@H](C(=O)N)CCC1 | C16H26N4O4
